US07335658B2
Synthesis of {6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}CARBAMIC ACID 3,3-DIMETHYLBUTYL Ester
To a solution of [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone (200 mg, 0.57 mmol) in 10 mL of dioxane was added trichloromethyl chloroformate (112.7 mg, 0.57 mmol) and stirred at ambient temperature. After 30 minutes 3,3-dimethylbutan-1-ol (175.5 mg, 1.71 mmol) and triethylamine (57.6 mg, 0.57 mmol) were added and the temperature was raised to 80° C. The mixture was stirred for 3 h under N2, and then concentrated. The residue was dissolved in dichloromethane (100 mL), and washed with 1 N HCl (2×20 mL), saturated NaHCO3 (2×20 mL) and finally with brine (2×20 mL). The combined organic extract was dried over anhydrous Na2SO4, concentrated, and then purified by column chromatography eluted with hexane:ethyl acetate (1:2). The product was obtained as a white solid (30 mg, 11% yield). 1H NMR (300 MHz, DMSO-d6) δ 10.38, 7.89, 7.83, 7.77, 7.67, 7.54, 7.47, 4.14, 3.10-3.90, 1.55, 0.95.

reactant | [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone | 0.57 mmol, 200 mg | NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H16F3N5O
reactant | trichloromethyl chloroformate | 0.57 mmol, 112.7 mg | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | 3,3-dimethylbutan-1-ol | 1.71 mmol, 175.5 mg | CC(CCO)(C)C | C6H14O
reactant | triethylamine | 0.57 mmol, 57.6 mg | C(C)N(CC)CC | C6H15N
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | {6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}CARBAMIC ACID 3,3-DIMETHYLBUTYL Ester | 30 mg, 11% yield | CC(CCOC(NC=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)=O)(C)C | C23H28F3N5O3
